US07291631B2
COMPOUND 312: 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid thiazol-2-ylamide
To a solution of 2-aminothiazole (48 mg, 0.45 mmol) in CH2Cl2 (5 mL) was added 1,1′-carbonyldiimidazole (90 mg, 0.55 mmol) and the reaction was stirred at room temperature for 4 h. The reaction mixture was concentrated and dried in vacuo. The tan residue was dissolved in a solution of the (3,5-dimethyl-pyrdin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidine-4-yl-amine (80 mg, 0.23 mmol) in CH3CN (5 mL) and warmed to 60° C. After 2 h at 60° C., the mixture was cooled and diluted with CH2Cl2/saturated NaHCO3 (1:1, 60 mL). The aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organic layer was dried (MgSO4), filtered, and concentrated to afford a yellow oil. Purification by radial chromatography on silica gel (1 mm plate; using CH2Cl2/MeOH/NH4OH; 100:1:1→25:1:1) afforded the product as a yellow oil (40 mg, 19%). 1H NMR (CDCl3) δ 0.94 (d, 6H, J=6.0 Hz), 1.63 (br m, 2H), 1.96 (d, 2H, J=12.0 Hz), 2.16 (s, 3H), 2.28 (s, 3H), 2.74-2.82 (m, 4H), 3.77 (s, 2H), 3.83 (s, 2H), 4.17 (s, 1H), 4.21 (s, 1H), 6.86 (d, 1H, J=3.0 Hz), 7.11-7.17 (m, 1H), 7.26 (s, 1H), 7.33 (d, 1H, J=3.0 Hz), 7.51(d, 1H, J=9.0 Hz), 8.19 (s, 1H), 8.33 (d, 1H, J=3.0 Hz), 9.16 (br s, 1H). 13C NMR (CDCl3) δ 18.30, 18.47, 23.61, 27.44, 27.50, 30.09, 44.86, 53.85, 54.30, 113.09, 122.38, 123.26, 132.39, 133.25, 133.96, 135.57, 136.72, 139.16, 144.45, 146.06, 146.63, 153.93, 154.34, 156.16, 162.92. ES-MS m/z 479 [M+H]+. Anal. Calcd. for C26H34N6−SO.0.7CH2Cl2.0.7CH3CN: C, 59.54; H, 6.67; N, 16.56; S, 5.66. Found: C, 59.40; H, 6.91; N, 16.49; S, 5.46.

reactant | 2-aminothiazole | 0.45 mmol, 48 mg | NC=1SC=CN1 | C3H4N2S
reactant | 1,1′-carbonyldiimidazole | 0.55 mmol, 90 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (3,5-dimethyl-pyrdin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidine-4-yl-amine | 0.23 mmol, 80 mg | CC=1C(=NC=C(C1)C)CN(C1CCNCC1)CC1=NC=CC=C1C(C)C | C22H32N4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid thiazol-2-ylamide | 40 mg, 19% | S1C(=NC=C1)NC(=O)N1CCC(CC1)N(CC1=NC=CC=C1C(C)C)CC1=NC=C(C=C1C)C | C26H34N6OS
